US06239152B1
60% Trifluoroacetic acid in dichloromethane (5 mL) was added to 5-(S)-azidomethyl-3-[4′-tert-butoxycarbonyl-3′-fluorophenyl]oxazolidine-2-one (0.336 g, 1 mmol), and the solution kept at r.t. for 1 h. Solvents were removed in vacuo to afford 5-(S)-azidomethyl-3-[4′-carboxy-3′-fluorophenyl-]oxazolidine-2-one dried (0.280 g, 99%). N-Trimethylsilyl-N,N-diethylamine (0.23 mL, 1.2 mmol) was added to above product in dry dichloromethane (3 mL) under nitrogen atmosphere, and the solution stirred for 15 min. Solvents and excess reagent were removed in vacuo, and residue dissolved in dichloromethane (4 mL). The solution was cooled to ca. 0° C., and oxalyl chloride (1.5 mmol, 0.13 mL) was added dropwise, followed by catalytic N,N-dimethylformamide (ca. 0.01 mL). The mixture was allowed to warm up to r.t., and stirred at r.t. for another 2 h. Solvents were removed in vacuo, and the resulting 5-(S)-azidomethyl-3-[4′-chlorocarbonyl-3′-fluorophenyl]-oxazolidine-2-one redissolved in dry aprotic solvent (preferably, tetrahydrofuran, pyridine, or acetonitrile, 3-10 mL). Resulted solution (0.8 mL, ca. 0.2 mmol) was added to an appropriate amine reagent (1 mmol) in aprotic solvent (preferably, acetonitrile, or pyridine, 1-5 mL) optionally containing an organic base (preferably, pyridine, 0.5-2 mL). The mixture was stirred at r.t. for 1-5 h. Solvent was removed in vacuo, and resulting 5-(S)-azidomethyl-3-[4′-(substituted)aminocarbonyl-3′-fluorophenyl]-oxazolidine-2-one was typically washed with water, and dried in vacuo. Triphenylphosphine (0.262 g, 1.0 mmol) in tetrahydrofuran (10 mL) was added to above azide intermediate, and the mixture stirred at 45-55° C.° C. for 2 h. Water (0.5 mL) was added, and the mixture stirred overnight at 50-60° C. Solvents were removed in vacuo, and resulting crude amine intermediates typically washed with excess diethyl ether. Aprotic solvent was added (preferably, tetrahydrofuran, 5-15 mL) was added, followed by pyridine (0.25-0.5 mL) and acetic anhydride (0.2-0.5 mL), and the mixture stirred at r.t. for 0.5-2 h (typically, 1 h). Solvents were removed in vacuo, and resulting product typically washed with excess diethyl ether and dried in vacuo.

reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-(S)-azidomethyl-3-[4′-tert-butoxycarbonyl-3′-fluorophenyl]oxazolidine-2-one | 1 mmol, 0.336 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC(C)(C)C)F | C15H17FN4O4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-(S)-azidomethyl-3-[4′-carboxy-3′-fluorophenyl-]oxazolidine-2-one | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)O)F | C11H9FN4O4
